US08293924B2
To the solution of sodium bicarbonate (2.5 g in 70 mL water) Ertapenem monosodium (15 g) was slowly added at 0-5° C., by maintaining pH around 7.5 using sodium hydroxide solution. The solution obtained was subjected to carbon treatment, followed by stirred with alumina and filtered. To filtrate, containing Ertapenem disodium was filtered through 0.2 micron filter paper and added into 2500 mL of cold IPA solution at 0-5° C. The solid obtained was filtered washed with IPA followed by acetone and IPE, dried under dry and wet nitrogen to yield Ertapenem disodium (Yield—8-12 g; sodium content: 9.2-10.5%; moisture content: 5-7%; pH: 7.5-8.0). The color of the reconstituted product was pale yellow.

reactant | Ertapenem monosodium | 15 g | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)NC=4C=CC=C(C4)C(=O)O)C(=O)O)[C@@H](C)O.[Na]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sodium bicarbonate | 70 mL, 2.5 g | C([O-])(O)=O.[Na+]
product | Ertapenem disodium | Yield—8-12 g, pH: 7.5-8.0 | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)NC4=CC=CC(=C4)C(=O)[O-])C(=O)[O-])[C@@H](C)O.[Na+].[Na+] | InChI=1S/C22H25N3O7S.2Na/c1-9-16-15(10(2)26)20(28)25(16)17(22(31)32)18(9)33-13-7-14(23-8-13)19(27)24-12-5-3-4-11(6-12)21(29)30;;/h3-6,9-10,13-16,23,26H,7-8H2,1-2H3,(H,24,27)(H,29,30)(H,31,32);;/q;2*+1/p-2/t9-,10-,13+,14+,15-,16-;;/m1../s1
